US04258181
[Bis(2-imidazolin-2-ylhydrazone)] of 2-chloro-9,10-anthracenedicarboxaldehyde dihydrochloride
A reaction mixture comprising 1.34 g. of 2-chloro-9,10-anthracenedicarboxaldehyde and 1.73 g. of 2-hydrazinoimidazoline dihydrochloride in 80 ml. of ethanol is refluxed for two hours, and filtered while hot. After cooling, the solution deposited 0.7 g. of the desired product as orange crystals, m.p. ≥ 280° C.

reactant | 2-chloro-9,10-anthracenedicarboxaldehyde | ClC1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C=O)C=O | C16H9ClO2
reactant | 2-hydrazinoimidazoline dihydrochloride | Cl.Cl.N(N)C=1NCCN1
solvent | ethanol | C(C)O | C2H6O
product | 2-chloro-9,10-anthracenedicarboxaldehyde dihydrochloride | Cl.Cl.ClC1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C=O)C=O | InChI=1S/C16H9ClO2.2ClH/c17-10-5-6-13-14(7-10)16(9-19)12-4-2-1-3-11(12)15(13)8-18;;/h1-9H;2*1H
